US07067658B2
2-Benzyloxy-4-chloro-3-nitro-pyridine (Wilde, et. al. WO 99/01454) (1.0 g, 3.78 mmol) and 5-fluoro-4-methoxy-2-methyl-phenylboronic acid (prepared substantially as described in Speicher, A.; Kolz, J.; Sambanje, R. P. Synthesis, 2002, 17, 2503, which is incorporated herein by reference) (1.2 mg, 5.67 mmol) were treated substantially as described in Part A of Example 19a to give 1.15 g (83%) of 2-benzyloxy-4-(5-fluoro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridine: MS (EI) m/z 369.3 [(M+H)+, 100].

reactant | 2-Benzyloxy-4-chloro-3-nitro-pyridine | 3.78 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])Cl | C12H9ClN2O3
reactant | 5-fluoro-4-methoxy-2-methyl-phenylboronic acid | FC=1C(=CC(=C(C1)B(O)O)C)OC | C8H10BFO3
product | 2-benzyloxy-4-(5-fluoro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridine | 1.15 g, 83% | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C(=C1)F)OC)C | C20H17FN2O4
